US06969717B2
6-Benzyloxy-4-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-yloxy)-5-methyl-pyrrolo[2,1-f][1,2,4]triazine
To a solution of 4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-ol (53.5 mg, 0.35 mmol) in DMF (2 mL) at −78° C., sodium hydride (60% in oil, 14 mg, 0.35 mmol) was added and the mixture was warmed to 0° C. After 30 minutes, the flask was cooled to −78° C., 6-benzyloxy-4-chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine (80 mg, 0.29 mmol) was added and the mixture was allowed to reach RT over 30 min. A solution of saturated ammonium chloride was added, the solution was extracted with ethyl acetate (3×15 mL), combined organic layers were washed with water (30 mL), brine (30 mL), dried, and concentrated in vacuo. The crude material was purified by trituration with acetonitrile to give the title compound (90 mg, 80%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 12.17 (1H, s), 8.30 (1H, d, J=9.6 Hz), 8.00 (1H, s), 7.94 (1H, s), 7.61 (1H, t, J=3.0 Hz), 7.49 (2H, d, J=7.1 Hz), 7.41 (2H, t, J=7.1 Hz), 7.34 (1H, t, J=7.3 Hz), 6.59 (1H, dd, J=2.0, 3.5 Hz), 5.16 (2H, s), 2.43 (3H, s). LC/MS; (M+H)+=m/z 390.

reactant | 4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-ol | 0.35 mmol, 53.5 mg | FC1=C2C(=NC=C1O)NC=C2 | C7H5FN2O
reactant | sodium hydride | 0.35 mmol, 14 mg | [H-].[Na+]
reactant | 6-benzyloxy-4-chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine | 0.29 mmol, 80 mg | C(C1=CC=CC=C1)OC=1C(=C2C(=NC=NN2C1)Cl)C | C14H12ClN3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-Benzyloxy-4-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-yloxy)-5-methyl-pyrrolo[2,1-f][1,2,4]triazine | 90 mg, 80% | C(C1=CC=CC=C1)OC=1C(=C2C(=NC=NN2C1)OC=1C(=C2C(=NC1)NC=C2)F)C | C21H16FN5O2
